US07238828B2
Synthesis of 3-(2-Cyano-acetoxy)-butyric acid ethyl ester (Et-β-HBT-CAc)
A mixture of 194.0 g of ethyl-3-hydroxybutyrate, 149.83 g of cyanoacetic acid, and 10.76 g of 4-dimethylaminopyridine (DMAP) was stirred in 1500 ml of CH2Cl2 in a 3 L three-neck round bottom flask equipped with a mechanical stirrer. About 75 ml of N-N′-dimethylformamide (DMF) was added to the above mixture to make a clear solution. The above solution was chilled in an ice water bath. A separately prepared dicyclohexylcarbodiimide (DCC) solution (363.45 g in 600 ml CH2Cl2) was added to the above chilled solution by using an addition funnel. White precipitate formed within five minutes after the start of the addition. The reaction mixture was left stirred overnight.

reactant | ethyl-3-hydroxybutyrate | 194.0 g | C(C)OC(CC(C)O)=O | C6H12O3
reactant | cyanoacetic acid | 149.83 g | C(#N)CC(=O)O | C3H3NO2
reactant | dicyclohexylcarbodiimide | 600 ml, 363.45 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
catalyst | 4-dimethylaminopyridine | 10.76 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 1500 ml | C(Cl)Cl | CH2Cl2
product | 3-(2-Cyano-acetoxy)-butyric acid ethyl ester | C(C)OC(CC(C)OC(CC#N)=O)=O | C9H13NO4
